US05136868
In the manner of Example 2, Step C, the reaction of 37.4 g (0.16 mole) of 2,4-dichloro-5-methoxyacetanilide with 12.8 g (0.32 mole) of sodium hydroxide in 30 mL of water and 30 mL of ethanol produced 16.7 g of 2,4-dichloro-5-methoxyaniline.

reactant | 2,4-dichloro-5-methoxyacetanilide | 0.16 mole, 37.4 g | CC(=O)NC1=CC(=C(C=C1Cl)Cl)OC | C9H9Cl2NO2
reactant | sodium hydroxide | 0.32 mole, 12.8 g | [OH-].[Na+]
solvent | water | 30 mL | O | H2O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2,4-dichloro-5-methoxyaniline | 16.7 g | ClC1=C(N)C=C(C(=C1)Cl)OC | C7H7Cl2NO
